* BJT current mirror - portable teaching netlist
VCC VCC 0 5
RREF VCC BASE {Rref}
Q1 BASE BASE 0 0 MirrorNPN
Q2 OUT BASE 0 0 MirrorNPN
VTEST OUT 0 1
.dc VTEST 0 5 0.01
.step param Rref list 2.2k 4.3k 8.2k
.model MirrorNPN NPN(IS=1e-14 BF=100 VAF=100)
.temp 27
.options reltol=1e-6 plotwinsize=0
.save V(base) Ic(Q1) Ic(Q2) Ib(Q1) Ib(Q2) I(RREF)
.meas DC Iout_at_1V FIND Ic(Q2) AT=1
.meas DC Iout_at_5V FIND Ic(Q2) AT=5
.end
